US09034866B2
10-Bromo-9-fluoro-N3-methyl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide (0.05 g) was reacted with (2R)-2-(5-methyl-1,2,4-oxadiazol-3-yl)but-3-yn-2-ol similar to as described in Procedure F to afford 8.4 mg of 10-[(3R)-3-hydroxy-3-(5-methyl-1,2,4-oxadiazol-3-yl)but-1-ynyl]-N3-methyl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide following reverse phase hplc purification. MS (Q1) 437 (M)+. 1H NMR (400 MHz, DMSO) δ 11.05 (q, J=4.1 Hz, 1H), 8.56 (d, J=2.0 Hz, 1H), 8.33 (s, 1H), 7.88 (s, 1H), 7.40 (dd, J=8.5, 2.1 Hz, 1H), 7.07 (d, J=8.5 Hz, 1H), 6.68 (s, 1H), 5.02-4.93 (m, 2H), 4.58-4.45 (m, 2H), 2.81 (d, J=4.5 Hz, 3H), 2.61 (s, 3H), 1.84 (s, 3H).

reactant | 10-Bromo-9-fluoro-N3-methyl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide | 0.05 g | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NC)C1)F | C14H12BrFN4O3
reactant | (2R)-2-(5-methyl-1,2,4-oxadiazol-3-yl)but-3-yn-2-ol | CC1=NC(=NO1)[C@@](C)(C#C)O | C7H8N2O2
product | 10-[(3R)-3-hydroxy-3-(5-methyl-1,2,4-oxadiazol-3-yl)but-1-ynyl]-N3-methyl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide | 8.4 mg | O[C@@](C#CC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NC)C1)(C)C1=NOC(=N1)C | C21H20N6O5
